US05039333
Preparation of Methyl 2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-5-[(phenylthio)methyl]nicotinate
A solution of thiophenol, sodium salt and methanol is added to a solution of 2-(1-benzoyl-4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-5-(bromomethyl)nicotinic acid, methyl ester (14.08 g, 0.0298 mol) and methanol. The reaction mixture is stirred for 15 hours at room temperature, acidified with ammonium chloride (5 g, 0.0869 mol) and concentrated in vacuo to yield an oil. The oil is chromatographed using silica gel and hexanes/ethyl acetate (3:1) to (1:1) as eluant to give the title compound as a yellow solid (8.32 g, 55%), mp 135°-138° C., identified by IR and NMR spectral analyses.

reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
reactant | sodium | [Na] | Na
reactant | 2-(1-benzoyl-4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-5-(bromomethyl)nicotinic acid, methyl ester | 0.0298 mol, 14.08 g | C(C1=CC=CC=C1)(=O)N1C(=NC(C1=O)(C)C(C)C)C1=C(C(=O)OC)C=C(C=N1)CBr | C22H22BrN3O4
reactant | ammonium chloride | 0.0869 mol, 5 g | [Cl-].[NH4+]
solvent | methanol | CO | CH4O
product | Methyl 2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-5-[(phenylthio)methyl]nicotinate | 8.32 g, 55% | C(C)(C)C1(N=C(NC1=O)C1=C(C(=O)OC)C=C(C=N1)CSC1=CC=CC=C1)C | C21H23N3O3S
